* AD102 -- catalogue.spice
* Reference page: "The SKY130 passive catalogue".
*
* Every device that page tabulates but no other deck in this directory
* instantiates: the seven resistor materials at one square, the two
* fixed-width precision families, the same 10 kohm built four ways, and the
* capacitors the c_area deck does not cover.
*
* Resistors are measured at 0.1 V across the device and R = V / I -- the same
* one-division idiom as r_head_and_body.spice, at a bias high enough that the
* five-digit values on the page are the ones you get.
* Capacitors are measured with a 1 V AC source at 1 kHz, C = Im(I)/(2*pi*f).
*
* Runs inside hpretl/iic-osic-tools:2026.04.  ngspice -b spice/catalogue.spice
* W and L are PLAIN MICRON NUMBERS -- no `u` suffix anywhere.
*
* NOTE the two line types. res_high_po, res_xhigh_po, res_generic_pd,
* res_generic_nd, res_generic_po and res_iso_pw are subcircuits -> `X` lines,
* capital W=/L=.  res_generic_nw, res_generic_l1 and the metal resistors are
* bare .model cards -> lower-case `r` lines, lower-case w=/l=.
* res_generic_po is a TWO-node subcircuit; the others take three.

.lib /foss/pdks/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* ---------------------------------------------------------------- A. one
* square of each material: W = 1 um, L = 1 um.
V1 a1 0 0.1
Xa1 a1 0 0 sky130_fd_pr__res_xhigh_po W=1 L=1
V2 a2 0 0.1
Xa2 a2 0 0 sky130_fd_pr__res_generic_pd W=1 L=1
V3 a3 0 0.1
Xa3 a3 0 0 sky130_fd_pr__res_generic_nd W=1 L=1
V4 a4 0 0.1
Xa4 a4 0 sky130_fd_pr__res_generic_po W=1 L=1
V5 a5 0 0.1
ra5 a5 0 sky130_fd_pr__res_generic_nw w=1 l=1
V6 a6 0 0.1
ra6 a6 0 sky130_fd_pr__res_generic_l1 w=1 l=1
V7 a7 0 0.1
ra7 a7 0 sky130_fd_pr__res_generic_m1 w=1 l=1
V8 a8 0 0.1
ra8 a8 0 sky130_fd_pr__res_generic_m3 w=1 l=1
* the isolated p-well resistor has a minimum width of its own
V10 a10 0 0.1
Xa10 a10 0 0 sky130_fd_pr__res_iso_pw W=2.65 L=10

* ---------------------------------------------------------------- B. the
* same res_high_po ten squares longer: the slope is the sheet resistance and
* the intercept is the two contact heads.
V9 a9 0 0.1
Xa9 a9 0 0 sky130_fd_pr__res_high_po W=1 L=11

* ---------------------------------------------------------------- C. 10 kohm
* four ways -- same value, four materials, and the area each one costs.
V11 b1 0 0.1
Xb1 b1 0 0 sky130_fd_pr__res_xhigh_po_0p35 W=0.35 L=1.647
V12 b2 0 0.1
Xb2 b2 0 0 sky130_fd_pr__res_high_po_0p35 W=0.35 L=8.351
V13 b3 0 0.1
Xb3 b3 0 0 sky130_fd_pr__res_generic_nd W=1 L=85.1
V14 b4 0 0.1
Xb4 b4 0 sky130_fd_pr__res_generic_po W=1 L=196.4

* ---------------------------------------------------------------- D. the
* fixed-width precision family, narrowest member. Two lengths ten squares
* apart, so the contact heads subtract out of the slope.
V15 c1 0 0.1
Xc1 c1 0 0 sky130_fd_pr__res_xhigh_po_0p35 W=0.35 L=1
V16 c2 0 0.1
Xc2 c2 0 0 sky130_fd_pr__res_xhigh_po_0p35 W=0.35 L=11
V17 c3 0 0.1
Xc3 c3 0 0 sky130_fd_pr__res_high_po_0p35 W=0.35 L=1
V18 c4 0 0.1
Xc4 c4 0 0 sky130_fd_pr__res_high_po_0p35 W=0.35 L=11

* ---------------------------------------------------------------- E. the
* capacitors c_area.spice does not build: a small MIM, a one-picofarad MIM,
* the m3_2 flavour, and the varactor at both ends of the supply.
Vc1 d1 0 dc 0 ac 1
Xd1 d1 0 sky130_fd_pr__cap_mim_m3_1 W=2 L=2
Vc2 d2 0 dc 0 ac 1
Xd2 d2 0 sky130_fd_pr__cap_mim_m3_1 W=22.2 L=22.2
Vc3 d3 0 dc 0 ac 1
Xd3 d3 0 sky130_fd_pr__cap_mim_m3_2 W=10 L=10
* gate 1.8 V above the well, then flat: the whole point of a varactor
Vc4 d4 0 dc 1.8 ac 1
Xd4 d4 0 0 sky130_fd_pr__cap_var_lvt W=10 L=10
Vc5 d5 0 dc 0 ac 1
Xd5 d5 0 0 sky130_fd_pr__cap_var_lvt W=10 L=10

.control
op
let r_xhigh_1sq = 0.1/(-i(v1))
let r_pd_1sq    = 0.1/(-i(v2))
let r_nd_1sq    = 0.1/(-i(v3))
let r_po_1sq    = 0.1/(-i(v4))
let r_nw_1sq    = 0.1/(-i(v5))
let r_l1_1sq    = 0.1/(-i(v6))
let r_m1_1sq    = 0.1/(-i(v7))
let r_m3_1sq    = 0.1/(-i(v8))
let r_isopw     = 0.1/(-i(v10))
let r_high_l11  = 0.1/(-i(v9))
let r_10k_xh035 = 0.1/(-i(v11))
let r_10k_h035  = 0.1/(-i(v12))
let r_10k_nd    = 0.1/(-i(v13))
let r_10k_po    = 0.1/(-i(v14))
let sl_xh035    = (0.1/(-i(v16)) - 0.1/(-i(v15)))/10
let sl_h035     = (0.1/(-i(v18)) - 0.1/(-i(v17)))/10
echo "--- A. one square of each material, W=1 L=1 (ohms) ---"
print r_xhigh_1sq r_pd_1sq r_nd_1sq r_po_1sq
print r_nw_1sq r_l1_1sq r_m1_1sq r_m3_1sq
echo "--- A2. res_iso_pw, W=2.65 L=10 (ohms) ---"
print r_isopw
echo "--- B. res_high_po at L=11 (ohms) ---"
print r_high_l11
echo "--- C. 10 kohm four ways (ohms) ---"
print r_10k_xh035 r_10k_h035 r_10k_nd r_10k_po
echo "--- D. fixed-width family at 0.35 um (ohms per um of length) ---"
print sl_xh035 sl_h035

ac lin 1 1k 1k
let c_mim_2x2     = imag(-i(vc1))/(2*pi*1e3)
let c_mim_22p2    = imag(-i(vc2))/(2*pi*1e3)
let c_mim_m3_2    = imag(-i(vc3))/(2*pi*1e3)
let c_var_1v8     = imag(-i(vc4))/(2*pi*1e3)
let c_var_0v0     = imag(-i(vc5))/(2*pi*1e3)
echo "--- E. capacitance (farads) ---"
print c_mim_2x2 c_mim_22p2 c_mim_m3_2
print c_var_1v8 c_var_0v0
.endc
.end
